US07799825B2
Step 1: 2,2,2-Trifluoro-1-(2-phenyl-1,3-thiazol-5-yl)ethanone (H1)
A solution (0.15 M) of 2-phenyl-1,3-thiazole-5-carbaldehyde (1.0 eq.) and CsF (0.2 eq.) in DME was treated with CF3SiMe3 (1.5 eq.) and then stiffed for 3 h at RT. The reaction mixture was quenched by adding 1N HCl and stirred for 30 min. The mixture was diluted with EtOAc, the organic phase was separated, washed with sat. aq. NaHCO3 solution and dried (Na2SO4). Evaporation of the solvent under reduced pressure afforded the product as an yellow oil. MS (ES+) C11H8F3NOS requires: 259, found: 260

reactant | 2-phenyl-1,3-thiazole-5-carbaldehyde | 0.15 M, 1.0 eq. | C1(=CC=CC=C1)C=1SC(=CN1)C=O | C10H7NOS
reactant | CsF | 0.2 eq. | [F-].[Cs+]
reactant | CF3SiMe3 | 1.5 eq. | C(F)(F)(F)[Si](C)(C)C | C4H9F3Si
solvent | DME | COCCOC | C4H10O2
product | 2,2,2-Trifluoro-1-(2-phenyl-1,3-thiazol-5-yl)ethanone | FC(C(=O)C1=CN=C(S1)C1=CC=CC=C1)(F)F | C11H6F3NOS
